US05849732
A mixture of 6.92 g of N-benzyloxycarbonyl-2-iodo-ethylamine, 4.00 g of 1-benzylpiperazine, 15.66 g of potassium carbonate and 40 ml of hexamethylphosphoramide (HMPA) was stirred at room temperature for overnight. Water was added to the reaction mixture, and the resulting mixture was extracted with diethyl ether. The extract was washed and dried, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (solvent; chloroform:methanol=15:1) to give 5.63 g of N-benzyloxycarbonyl-2-(4-benzylpiperazin-1-yl)ethylamine (yield: 70%, oily product, IR: 3230, 2910, 1710 cm-).

reactant | N-benzyloxycarbonyl-2-iodo-ethylamine | 6.92 g | C(C1=CC=CC=C1)OC(=O)NCCI | C10H12INO2
reactant | 1-benzylpiperazine | 4.00 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | potassium carbonate | 15.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexamethylphosphoramide | 40 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | Water | O | H2O
product | N-benzyloxycarbonyl-2-(4-benzylpiperazin-1-yl)ethylamine | 5.63 g, yield: 70% | C(C1=CC=CC=C1)OC(=O)NCCN1CCN(CC1)CC1=CC=CC=C1 | C21H27N3O2
